### PR TITLE
[Merged by Bors] - feat: More big operator lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 1]
```diff
@@ -2319,6 +2356,30 @@ theorem prod_subtype_mul_prod_subtype {α β : Type*} [Fintype α] [CommMonoid 
...
 #align fintype.sum_subtype_add_sum_subtype Fintype.sum_subtype_add_sum_subtype
 
+@[to_additive]
+lemma prod_ite_exists (p : ι → Prop) [DecidablePred p] (h : ∀ i j, p i → p j → i = j) (a : α) :
+    ∏ i, ite (p i) a 1 = ite (∃ i, p i) a 1 := by simp [prod_ite_one univ p (by simpa using h)]
+
+variable [DecidableEq ι]
+
+@[to_additive (attr := simp)] lemma prod_dite_eq (i : ι) (f : ∀ j, i = j → α) :
+    ∏ j, (if h : i = j then f j h else 1) = f i rfl := by simp
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Basic.lean:2366]: This should probably be about `mulSingle`

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Basic.lean:2366]: These match lemmas under the `Finset` namespace. But, well spotted, I had forgotten the `Pi.mulSingle` lemmas.

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -3679,7 +3679,8 @@ private lemma pairwiseDisjoint_fibers : Set.PairwiseDisjoint ↑t fun a ↦ s.fi
   fun x' hx y' hy hne ↦ by
     simp_rw [disjoint_left, mem_filter]; rintro i ⟨_, rfl⟩ ⟨_, rfl⟩; exact hne rfl
 
-@[simp] lemma disjiUnion_filter_eq (s : Finset α) (t : Finset β) (f : α → β) :
+-- False positive, it seems
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3682]: Can you explain *which* simpNF error this is guarding against?

Comment (YaelDillies) [reply Mathlib/Data/Finset/Basic.lean:3682]: That the statement can't simplify itself.

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Basic.lean:2367]: That's prone to regolfing. I've added some "See also" instead (although they look a bit stupid since we're not going to put a doc
`Fintype.X` now has

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Basic.lean:2368]: I think a single-lemma proof is more valuable than `by simp`, so I don't buy the regolfing argument. See also in the docstring isn't checked by CI and doesn't link in VSCode. It also means that if someone refactors the `Finset` lemmas, CI reminds them to adjust the `Fintype` ones too.

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 3]
```diff
@@ -146,3 +144,57 @@ theorem snd_prod : (∏ c in s, f c).2 = ∏ c in s, (f c).2 :=
...
 
 end Prod
+
+open Finset
+
+namespace Fintype
+variable {ι κ : Type*} {α : ι → Type*} [DecidableEq ι] [Fintype ι] [DecidableEq κ]
+  [∀ i, DecidableEq (α i)]
+
+lemma card_filter_piFinset_eq_of_mem [∀ a, DecidableEq (α a)] (s : ∀ i, Finset (α i)) (i : ι)
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Pi.lean:154]: This one might be worthy of a docstring

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Basic.lean:2368]: What about that idea on Zulip to have a tag for lemmas which are not tagged simp because they are provable by simp?

File: Mathlib/Algebra/BigOperators/Pi.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Pi.lean:154]: Actually I found a nice lemma to abstract from the proof, but it's not nice not to need this lemma.

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Basic.lean]: I have reworked the proofs the way you wanted

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 4]
```diff
@@ -2256,6 +2293,52 @@ theorem prod_subtype_mul_prod_subtype {α β : Type*} [Fintype α] [CommMonoid 
 #align fintype.prod_subtype_mul_prod_subtype Fintype.prod_subtype_mul_prod_subtype
 #align fintype.sum_subtype_add_sum_subtype Fintype.sum_subtype_add_sum_subtype
 
+@[to_additive] lemma prod_subset {s : Finset ι} {f : ι → α} (h : ∀ i, f i ≠ 1 → i ∈ s) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Basic.lean:2296]: Any reason not to match `x ∉ s₁ → f x = 1` from `Finset.prod_subset`?

File: Mathlib/Data/Finset/Union.lean [hunk 5]
```diff
@@ -87,15 +87,20 @@ lemma disjiUnion_disjiUnion (s : Finset α) (f : α → Finset β) (g : β → F
           exact disjoint_left.mp (h1 a.prop b.prop <| Subtype.coe_injective.ne hab) hfa hfb :=
   eq_of_veq <| Multiset.bind_assoc.trans (Multiset.attach_bind_coe _ _).symm
 #align finset.disj_Union_disj_Union Finset.disjiUnion_disjiUnion
+variable [DecidableEq β] {s : Finset α} {t : Finset β} {f : α → β}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Union.lean:90]:
```suggestion
#align finset.disj_Union_disj_Union Finset.disjiUnion_disjiUnion

variable [DecidableEq β] {s : Finset α} {t : Finset β} {f : α → β}
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Looks okay for as far as I understand what's going on :)

**Review by kbuzzard — APPROVED** [review]
I don't really know this part of the library but the code/naming etc looks fine.

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Basic.lean:2296]: It's much more useful this way, I find, as it can be interpreted as saying that the support of `f` is a subset of `s`. `Finset.prod_subset` can't really afford to be stated like that as it instead wants to emphasize `s₁ \ s₂`.

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
